US04464300
107.3 g of 5-acetamino-2-amino-2'-chlorobenzhydrol are heated to 90° for 1 hour together with 36.8 g of 3-mercaptopropionic acid in 290 ml of 6N hydrochloric acid. After cooling, the crystals are filtered off. There is obtained 3-[(2,5-diaminophenyl)(2-chlorophenyl)methylthio]propionic acid dihydrochloride of melting point 234°-235° (decomposition).

reactant | 5-acetamino-2-amino-2'-chlorobenzhydrol | 107.3 g | N(C(=O)C)C=1C=CC(=C(C(C2=C(C=CC=C2)Cl)O)C1)N | C15H15ClN2O2
reactant | 3-mercaptopropionic acid | 36.8 g | SCCC(=O)O | C3H6O2S
solvent | hydrochloric acid | 6N, 290 ml | Cl | ClH
product | 3-[(2,5-diaminophenyl)(2-chlorophenyl)methylthio]propionic acid dihydrochloride | Cl.Cl.NC1=C(C=C(C=C1)N)C(SCCC(=O)O)C1=C(C=CC=C1)Cl | InChI=1S/C16H17ClN2O2S.2ClH/c17-13-4-2-1-3-11(13)16(22-8-7-15(20)21)12-9-10(18)5-6-14(12)19;;/h1-6,9,16H,7-8,18-19H2,(H,20,21);2*1H
